US06992100B2
7. Preparation of (5-Benzyl-1-carbamoyl-5H-benzo[b]carbazol-11-yloxy)-acetic acid, methyl ester
40% Methanolic Triton B (0.378 mL, 0.832 mM) was added to a solution of 5-benzyl-11-hydroxy-5H-benzo[b]carbazole-1-carboxylic acid amide, (0.235 g, 0.64 mM) in 5 mL DMF at room temperature. After 2 minutes, methyl bromoacetate (0.125 mL, 0.202 g, 1.28 mM) was added and the resultant mixture stirred at room temperature for 2 h. Cesium carbonate (0.105 g, 0.32 mM) was then added as a solid, and the mixture allowed to stir at room temperature for an additional 1 h. The mixture was diluted with ethyl acetate, washed with H2O, 1N HCl, saturated aqueous NaHCO3 solution, and saturated brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting brown residue-was purified by column chromatography on silica gel (elution with ethyl acetate) to afford 0.151 g (53%) of the title compound (5-benzyl-1-carbamoyl-5H-benzo[b]carbazol-11-yloxy)-acetic acid, methyl ester as a brown foam (MP 120–125° C., MW 438.49).

reactant | 5-benzyl-11-hydroxy-5H-benzo[b]carbazole-1-carboxylic acid amide | 0.64 mM, 0.235 g | C(C1=CC=CC=C1)N1C=2C=CC=C(C2C=2C(=C3C(=CC12)C=CC=C3)O)C(=O)N | C24H18N2O2
reactant | methyl bromoacetate | 1.28 mM, 0.125 mL, 0.202 g | BrCC(=O)OC | C3H5BrO2
reactant | Cesium carbonate | 0.32 mM, 0.105 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-Benzyl-1-carbamoyl-5H-benzo[b]carbazol-11-yloxy)-acetic acid, methyl ester | 0.151 g, 53% | C(C1=CC=CC=C1)N1C2=CC=CC(=C2C=2C(=C3C(=CC12)C=CC=C3)OCC(=O)OC)C(N)=O | C27H22N2O4
